US04210439
To a stirred slurry containing 30.2 g (0.2 mol) of 2-hydroxybenzothiazole and 40 ml of methyl alcohol, 32 ml of 37% aqueous formaldehyde was added in one portion. The stirred mixture was heated at 78°-80° C. (reflux) for 30 minutes. At 80° C., 60 ml of hot water was added to the stirred solution. After cooling to 0° C., the product was collected by filtration, washed with 100 ml of heptane and air-dried at 25°-30° C. The product, 3-(hydroxymethyl)-2-benzothiazolinone, mp. 101°-3° C., was obtained in 94% yield. After recrystallization from isopropyl alcohol the melting point remained unchanged.

reactant | 2-hydroxybenzothiazole | 0.2 mol, 30.2 g | OC=1SC2=C(N1)C=CC=C2 | C7H5NOS
reactant | methyl alcohol | 40 ml | CO | CH4O
reactant | formaldehyde | 32 ml | C=O | CH2O
solvent | water | 60 ml | O | H2O
product | 3-(hydroxymethyl)-2-benzothiazolinone | 94% yield | OCN1C(SC2=C1C=CC=C2)=O | C8H7NO2S
